US08735384B2
A solution of (2-(2-amino-3-morpholinoquinolin-6-yl)-3-methylphenyl)(phenyl)methanol (0.155 g, 0.364 mmol) in DCM was treated with 0.4 mL of 5N HCl in iPrOH. The mixture was concentrated in vacuo and azeotroped 3× with DCM. The resulting yellow solid was treated again with DCM (1.21 mL) and thionyl chloride (0.80 mL, 10.93 mmol) was added dropwise, and the reaction mixture was stirred for 30 min at ambient temperature for 1 h and concentrated in vacuo. The residue was azeotroped 2× with DCM and dried under vacuum to afford crude 6-(2-(chloro(phenyl)methyl)-6-methylphenyl)-3-morpholinoquinolin-2-amine hydrochloride which was used without further purification.

reactant | (2-(2-amino-3-morpholinoquinolin-6-yl)-3-methylphenyl)(phenyl)methanol | 0.364 mmol, 0.155 g | NC1=NC2=CC=C(C=C2C=C1N1CCOCC1)C1=C(C=CC=C1C)C(O)C1=CC=CC=C1 | C27H27N3O2
reactant | HCl | 5N, 0.4 mL | Cl | ClH
reactant | thionyl chloride | 10.93 mmol, 0.80 mL | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | iPrOH | CC(C)O | C3H8O
solvent | DCM | 1.21 mL | C(Cl)Cl | CH2Cl2
product | 6-(2-(chloro(phenyl)methyl)-6-methylphenyl)-3-morpholinoquinolin-2-amine hydrochloride | Cl.ClC(C1=C(C(=CC=C1)C)C=1C=C2C=C(C(=NC2=CC1)N)N1CCOCC1)C1=CC=CC=C1 | InChI=1S/C27H26ClN3O.ClH/c1-18-6-5-9-22(26(28)19-7-3-2-4-8-19)25(18)20-10-11-23-21(16-20)17-24(27(29)30-23)31-12-14-32-15-13-31;/h2-11,16-17,26H,12-15H2,1H3,(H2,29,30);1H
